US06344449B1
methyl N6-[(1,1-dimethylethoxy)carbonyl]-N2-[N-[[[2-(3-methoxyphenyl)ethyl]amino]carbonyl]-3,5-dibromo-D-tyrosyl]-L-lysine
To a mixture of 10 g (19.4 mmol) of 3,5-dibromo-N-[[[2-(3-methoxyphenyl)ethyl]amino]carbonyl]-D-tyrosine, 2.6 g (20 mmol) of DIEA, 6.4 g (20 mmol) of TBTU, 2.64 g (19.5 mmol) of HOBt and 200 ml of dimethylformamide was added dropwise, with stirring, a solution of 5.04 g (19.4 mmol) of H-Lys(Boc)-OMe in 50 ml of dimethylformamide and the mixture was stirred overnight at room temperature. The reaction mixture was evaporated down in vacuo and the residue was taken up in 250 ml of ethyl acetate. The ethyl acetate phase was then washed twice with 100 ml of saturated aqueous sodium hydrogen carbonate solution, once with 100 ml of 20% aqueous citric acid solution and finally once with 100 ml of saturated aqueous saline solution. The organic phase was dried with sodium sulphate, evaporated down in vacuo and the residue was purified by column chromatography (MN-silica gel 60, Macherey-Nagel, 70-230 mesh ASTM, eluant: ethyl acetate/petroleum ether=2/1 (v/v)). After removal of the solvent in vacuo the residue was triturated with ether, the amorphous solid obtained (9.5 g; 66% of theory) was suction filtered and dried.

reactant | 3,5-dibromo-N-[[[2-(3-methoxyphenyl)ethyl]amino]carbonyl]-D-tyrosine | 19.4 mmol, 10 g | BrC=1C=C(C[C@@H](NC(=O)NCCC2=CC(=CC=C2)OC)C(=O)O)C=C(C1O)Br | C19H20Br2N2O5
reactant | DIEA | 20 mmol, 2.6 g | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 20 mmol, 6.4 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 19.5 mmol, 2.64 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H-Lys(Boc)-OMe | 19.4 mmol, 5.04 g | N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC | C12H24N2O4
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | methyl N6-[(1,1-dimethylethoxy)carbonyl]-N2-[N-[[[2-(3-methoxyphenyl)ethyl]amino]carbonyl]-3,5-dibromo-D-tyrosyl]-L-lysine | CN([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O)C([C@H](NC(=O)NCCC1=CC(=CC=C1)OC)CC1=CC(=C(C(=C1)Br)O)Br)=O | C31H42Br2N4O8
